US09359279B2
To a solution of hydroxyl benzaldehyde in DMF was added K2CO3 (2 eq. each hydroxyl group) at 4° C. in an ice-bath and methyl chloromethyl ether (MOM chloride) (1.3 eq. each hydroxyl group). After the solution was stirred at room temperature and monitored by TLC for 3-5 hours, hexanes/dichloromethane (1:1) was added and allowed to stir for 30 min. The solid was filtered out and the filtrate was concentrated. The resulting residue was diluted with EtOAc and washed with H2O twice. The aqueous layer was extracted with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated. The crude was purified by a CombiFlash chromatography system using a Grace silica gel column and hexanes/ethyl acetate (as the eluent) to give MOM protected hydroxylbenzaldehyde. The resulting compound further reacted with excess acetone in ethanol catalyzed by 10% NaOH (1.2 eq. of NaOH). After stirred at room temperature and monitored by TLC for 1-5 hours, the reaction mixture was diluted with CH2Cl2, washed with H2O twice, and extracted with CH2Cl2 twice. The MOM protected hydroxy-phenyl-but-3-en-2-one was obtained after purification by a CombiFlash system using hexanes/ethyl acetate as the eluent. The resulting compound reacted with an appropriate MOM protected hydroxybenaldehyde to afford MOM protected hydroxyl 1,5-diphenyl-penta-1,4-dien-3-one, which was deprotected by heating in 50% acetic acid aqueous solution to afford the desired product.

reactant | hydroxyl benzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | acetone | CC(=O)C | C3H6O
reactant | NaOH | 1.2 eq. | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | hydroxyl 1,5-diphenyl-penta-1,4-dien-3-one | OC(=CC(C=CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H14O2
